US07282530B2
As shown in the following reaction 1, 30 g of benzil monoxime acrylate, which is obtained from the reaction of benzil monoxime and chloroacylate, and 1 L of chloroform were added into a 2 L reactor, and was stirred and cooled in iced water. 47 g of 3-chloroperoxybenzoicacid(mCPBA) were slowly added into the cooled solution, and the reaction was carried out at room temperature for 24 hours. After completion of the reaction, the 3-chlorobenzoicacid (by-product) was removed by filtering the product, and then the residual 3-chlorobenzoicacid was removed by washing 2 times with saturated sodium sulfite aqueous solution, 1 time with saturated sodium bicarbonate aqueous solution, 1 time with saturated sodium chloride aqueous solution, and 1 time with distilled water. Next, the product was dried with magnesium sulfate, and chloroform was removed under reduced pressure, and then the product was vacuum dried for 1 day to obtain 25.5 g of the pure benzil monoxime acrylate oxide. NMR spectrum of the obtained benzil monoxime acrylate oxide is described in FIG. 1.

reactant | benzil monoxime acrylate | 30 g | C(C=C)(=O)O.C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=NO
solvent | chloroform | 1 L | C(Cl)(Cl)Cl | CHCl3
product | benzil monoxime | C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=NO | C14H11NO2
